US05677316
(4) 1-Benzyl-3-(dibenzylaminomethyl)-3-fluoromethylpyrrolidine
A solution of 1-benzyl-3-(dibenzylaminomethyl)-3-mesyloxymethylpyrrolidine (6.90 g) in acetonitrile (70 ml) was added to 1N tetrabutylammonium fluoride in tetrahydrofuran (72 ml), and the mixture was starred at 40° C. for 16 hours. After concentration, the concentrate was poured into water (200 ml), and the mixture was made alkaline with aqueous ammonia and extracted with ether. The ether layer was washed with water, dried, concentrated and purified by silica gel column chromatography to give 4.37 g of the object compound as an oil.

reactant | 1-benzyl-3-(dibenzylaminomethyl)-3-mesyloxymethylpyrrolidine | 6.90 g | C(C1=CC=CC=C1)N1CC(CC1)(COS(=O)(=O)C)CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H34N2O3S
reactant | tetrabutylammonium fluoride | 1N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | tetrahydrofuran | 72 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-(dibenzylaminomethyl)-3-fluoromethylpyrrolidine | 4.37 g | C(C1=CC=CC=C1)N1CC(CC1)(CF)CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C27H31FN2
